US06599917B1
(2-Pyrmidyl)tri-n-butyltin
3.2 ml of a hexane solution containing 1.57 mol of n-butyllithium was slowly added dropwise into a solution of 20 ml of tetrahydrofuran containing 707 μl of diisopropylamine under ice-cooling. After stirring at 0° C. for 30 minutes, 1.4 ml of tri-n-butyltin hydride was slowly added dropwise thereinto. After stirring at 0° C. for 30 minutes, the mixture cooled to −78° C. and a suspension of 30 ml of tetrahydrofuran containing 2-chloropyrimidine was slowly added drowise thereinto. After stirring at −78° C. for one hour as it was and then at 0° C. for 2 hours, water was added to the reaction solution. The mixture was extracted with ethyl acetate, and the organic phase was washed with brine and the solvent was removed. Then, the residue was subjected to silica gel column chromatography and eluted with hexane/ethyl acetate (10:1) and then with hexane/ethyl acetate (7:1), to give 654 mg of the target compound.

reactant | n-butyllithium | 1.57 mol | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | tri-n-butyltin hydride | 1.4 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
solvent | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 3.2 ml | CCCCCC | C6H14
product | (2-Pyrmidyl)tri-n-butyltin | 654 mg | N1=C(N=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H3N2.3C4H9.Sn/c1-2-5-4-6-3-1;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
